US08222416B2
To a stirred solution of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carbaldehyde (104 mg, 0.26 mmol) in dry methanol (5 mL) was added sodium borohydride (40 mg, 1.05 mmol) at 0° C. The resulting mixture was stirred at room temperature for 2 h and then quenched with a saturated ammonium chloride solution, extracted with ethyl acetate and washed with brine, dried over anhydrous sodium sulfate. The solvent was evaporated in vacuo. Purification using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-methanol (85 mg, 81%) as a white solid: LC/MS m/e calcd for C22H26N2O3S [M+H]+ 399.53, observed 399.1; 1H NMR (400 MHz, CDCl3) δ ppm 1.18 (m, 2H), 1.48 (m, 2H), 1.56-1.87 (m, 5H, H), 2.13 (m, 1H), 2.24 (m, 1H), 3.04 (s, 3H), 3.59 (br, 1H), 4.30 (t, J=7.7 Hz, 1H), 4.08 (s, 2H), 6.41 (s, 1H), 7.50 (d, J=8.2 Hz, 2H), 7.87 (d, J=8.2 Hz, 2H), 8.02 (s, 1H), 8.14 (br. s., 1H), 10.80 (br, 1H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-carbaldehyde | 0.26 mmol, 104 mg | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)C=O)N1 | C22H24N2O3S
reactant | sodium borohydride | 1.05 mmol, 40 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | {2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-methanol | 85 mg, 81% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)CO)N1 | C22H26N2O3S
